US07265148B2
Synthesis of 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylate followed the procedure of Example 1 Step 4 as an off-white solid: 1H NMR (DMSO-6) δ 6.21 (s, 2 H), 7.20 (s, 2 H), 7.20-7.60 (m, 7 H), 11.92 (s, 1H), 13.0 (br s, 1 H); MS (ESI) m/z 303 (MH+); MS (ESI) m/z 301 ([M-H]−); HRMS calcd for C19H15N2O2: 303.1134; found (ESI+): 303.1124; Anal. calcd for C19H14N2O2.1.3 H2O: C, 70.06; H, 5.13; N, 8.60. Found: C, 70.22; H, 5.08; N, 8.21.

reactant | ethyl 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylate | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)OCC | C21H18N2O2
solvent | H2O | O | H2O
product | 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)O | C19H14N2O2
